Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
___ EGD
___ Fiberoptic scope by ENT

 
History of Present Illness:
___ is ___ w/ hx of L mandible AVM s/p sclerotherapy 
who presents to the emergency department with
intermittent taste of blood, globus sensation and indigestion. 
Three days ago, he was eating and suffered a cut to the back of 
his oropharynx and had some bleeding at the site. While eating 
food, he kept feeling that something was "stuck" in the roof of 
his mouth. Went to ___ for evaluation and they noted 
the abrasion and no further intervention was performed. Patient 
has had continued bleeding since then, has been swallowing 
blood, and felt nauseous today so comes to BID for evaluation. 
Also complaining of melena, and has a picture on his phone 
showing what appears to be gross black stool. No other symptoms 
at this time, breathing normally, no chest pain.
In the ED, initial vitals: 
Temp 97.9, HR 106, BP 142/92, RR 20, 100% on RA
Noted to have a large left jaw deformity, with a venous 
structure at the left upper oropharynx on the soft palate just 
anterior to the uvula.
Rectal with trace positive blood.

His initial H/H was 12.3/36.8, and he received 2L NS, lorazepam 
and Zofran. ENT was consulted who performed fiberoptic exam 
which showed a stable L mandible AVM with sclerosis from 
previous intervention, with a different 1x2cm area along the 
soft palate noted on exam concerning for either hematoma or, 
more likely, new AVM. This area did not appear to be bleeding, 
however. In general, the exam was overall normal to the extent 
of the upper airway, and ENT did not feel any of the 
abnormalities visualized here could be contributing to his 
bleeding and melena. Recommended GI EGD, which they may perform 
tomorrow.
 
On transfer, vitals were: 
T 98.8, HR 95, BP 141/80, RR 21, SpO2 100% on RA
 
Past Medical History:
 L mandible AVM s/p sclerotherapy
 
Social History:
___
Family History:
no history of AVMs in the family, grandmother with lung cancer 
at ___, uncle with MI at ___
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vitals: T 98.8, HR 95, BP 141/80, RR 21, SpO2 100% on RA
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx with abrasion to roof 
of the mouth that is not actively bleeding, large mass over 
angle of face on the left side without evidence of airway 
compromise 
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: No hemangiomas or other abnormalities are noted on the 
skin
NEURO: A&Ox3

DISCHARGE PHYSICAL EXAM
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, large AVM over left mandible 
without evidence of airway compromise, no blood in oropharynx  
NECK: supple, JVP not elevated 
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: No hemangiomas or other abnormalities are noted on the 
skin  
NEURO: A&Ox3
 
Pertinent Results:
=================
ADMISSION LABS
=================

___ 09:29AM BLOOD WBC-16.1* RBC-4.15* Hgb-12.3* Hct-36.8* 
MCV-89 MCH-29.6 MCHC-33.4 RDW-12.9 RDWSD-41.7 Plt ___
___ 07:36PM BLOOD WBC-9.0 RBC-3.40* Hgb-10.1* Hct-30.1* 
MCV-89 MCH-29.7 MCHC-33.6 RDW-13.1 RDWSD-42.0 Plt ___
___ 09:29AM BLOOD ___ PTT-27.3 ___
___ 09:29AM BLOOD Glucose-91 UreaN-25* Creat-0.8 Na-136 
K-4.3 Cl-100 HCO3-25 AnGap-15
___ 06:27AM BLOOD Calcium-8.1* Phos-3.7 Mg-1.9

==============
IMAGING
==============

CTA:   
There is a large maxillary branch of the left external carotid 
artery coursing between the left lateral pterygoid muscle and 
with masticator space. There is contrast puddling along the fat 
plane of the lateral pterygoid muscle in the left buccal fat, 
which is seen up to the left temporalis muscle. A large 1.6 x 
1.9 cm phlebolith is seen in the anterior to the enlarged left 
mass upper muscle. These findings are likely indicate slow 
filling of arterial venous malformation involving the maxillary 
branch of the left external carotid artery. There is evidence of 
prior embolization in the area. Prominent external carotid 
artery branches are seen. 
On the left, There is a large left lingual branch coursing 
towards the hyperdensity seen in the tongue and oral cavity. No 
focal arterial blush is seen. Ill-defined hyperdensity on the 
surface of the tongue most likely represent venous blood. 
  
Patent vessels of circle ___ and its major tributaries 
without significant stenosis, occlusion and aneurysmal 
formation. No significant stenosis of the carotid and vertebral 
arteries and its major tributaries. No arterial venous 
malformation is seen intracranially. 

CTA chest
No evidence of an arteriovenous malformation within the 
esophagus and 
visualized chest.  Normal study. 

==================
DISCHARGE LABS
==================
___ 06:59AM BLOOD WBC-6.4 RBC-3.12* Hgb-9.3* Hct-28.0* 
MCV-90 MCH-29.8 MCHC-33.2 RDW-13.0 RDWSD-41.9 Plt ___
___ 07:25PM BLOOD WBC-7.9 RBC-3.16* Hgb-9.4* Hct-28.0* 
MCV-89 MCH-29.7 MCHC-33.6 RDW-12.8 RDWSD-41.0 Plt ___
___ 06:27AM BLOOD WBC-7.7 RBC-3.30* Hgb-9.7* Hct-29.5* 
MCV-89 MCH-29.4 MCHC-32.9 RDW-13.1 RDWSD-42.3 Plt ___
___ 06:59AM BLOOD ___ PTT-30.7 ___
___ 06:59AM BLOOD Glucose-84 UreaN-10 Creat-0.7 Na-141 
K-3.7 Cl-104 HCO3-25 AnGap-16
___ 06:59AM BLOOD Calcium-8.7 Phos-4.0 Mg-1.___ y/o male with left mandible AVM who presented with melena and 
reported oropharyngeal bleeding. Patient was evaluated in the ED 
by ENT and underwent a fiberoptic scope which showed no active 
hemorrhage. He was admitted to the MICU for closer monitoring. A 
CTA head/neck was performed and showed his known AVM. His Hct 
was noted to downtrend and therefore underwent an EGD on ___. 
No obvious source of bleeding was identified, however there was 
evidence of a small amount of blood in the posterior oropharynx, 
proximal esophagus and gastric body. His Hct was monitored and 
remained stable, and H/H was 9.3/28.0 at the time of discharge. 
He had no further hemoptysis or hematemesis. He was able to 
tolerate a diet without symptoms. Given his stability he was 
discharged home, however will need to follow up closely with a 
PCP as well as ENT specialist and AVM specialist. He was also 
instructed to seek medical attention if symptoms recur.

TRANSITIONAL ISSUES
=====================
- will need to establish care with a PCP, ENT and AVM specialist 
in ___ and be seen by a physician early next week. 
- will need a CBC checked on ___ 

 
Medications on Admission:
None
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: AVM
Secondary diagnosis: anemia, gastrointestinal bleeding, 
oropharyngeal bleeding

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of your during your 
hospitalization. You were admitted due to oropharyngeal bleeding 
and melena. You were evaluated by the ENT team as well as the GI 
team and it is unclear what is causing you to bleed. You 
underwent an EGD which did not show active bleeding, however did 
show a small amount of blood in your stomach. You were monitored 
overnight and your blood counts remained stable. You were also 
able to tolerate a soft diet without further bleeding episodes. 

It is very important that you establish care with an ENT doctor 
here in ___. 

It is also very important that you establish care with a primary 
care doctor in ___ or ___. You will need to have your 
blood counts checked on ___. 

If you have bleeding, worsening melena, abdominal pain, 
lightheadedness, dizziness, headache, or shortness of breath, it 
is very important that you seek medical attention. It is also 
very important that you avoid alcohol. Also, please advance your 
diet slowly and eat soft foods until you are able to tolerate 
more solid objects. 
 

We wish you the best,
Your ___ Team

 
Followup Instructions:
___